US07262212B2
A mixture of 2-chloro-4-nitro-1H-imidazole (3.22 g, 21.8 mmol), 5-bromo-3-(2-methyloxiran-2-ylmethyl)-3H-benzoxazol-2-one (6.2 g, 21.8 mmol); sodium acetate (1.97 g, 24 mmol) and ethanol (50 ml) was stirred under reflux for 8 hours. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. To the residue, water was added, and the resulting solution was extracted with methylene chloride. The organic phase was dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure, and the residue was dissolved in 1,4-dioxane (60 ml). To the solution, sodium hydride (528 mg, 13.21 mmol) was added followed by stirring at 70-80° C. for 17 hours. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. To the residue, water was added, extracted with methylene chloride. The organic phase was dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=30/1) to afford 5-bromo-3-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)-3H-benzoxazol-2-one (1.82 g, yield 37%) as a white powder.

reactant | 2-chloro-4-nitro-1H-imidazole | 21.8 mmol, 3.22 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | 5-bromo-3-(2-methyloxiran-2-ylmethyl)-3H-benzoxazol-2-one | 21.8 mmol, 6.2 g | BrC=1C=CC2=C(N(C(O2)=O)CC2(OC2)C)C1 | C11H10BrNO3
reactant | sodium acetate | 24 mmol, 1.97 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydride | 13.21 mmol, 528 mg | [H-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-bromo-3-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)-3H-benzoxazol-2-one | 1.82 g, yield 37% | BrC=1C=CC2=C(N(C(O2)=O)CC2(CN3C(O2)=NC(=C3)[N+](=O)[O-])C)C1 | C14H11BrN4O5
